US04737495
1-(7,8-Dimethoxy-1,2,4,5-tetrahydro-3H-3-benzazepin-3-yl)-3-chloro-propane
Here, 1-(7,8-dimethoxy-1,3,4,5-tetrahydro-2H-3-benzazepin-2-on-3-yl)-3-chloro-propane (1.5 g, 0.005 mol) is dissolved in tetrahydrofuran (20 ml) and, after the addition of boron trifluoride etherate (0.55 ml, 0.0044 mol) and a 2 molar solution of boranedimethylsulfide in toluene (3 ml, 0.006 mol), the mixture is refluxed for 2 hours. Then, further boranedimethylsulfide solution (3 ml) is added and again the mixture is refluxed for 2 hours. After decomposition with methanol the solvents are distilled off and the residue is heated to 100° C. for 10 minutes with semi-concentrated hydrochloric acid (6 ml). The reaction product is extracted with ethyl acetate, the acidic aqueous phase is made alkaline and again extracted with ethyl acetate. The extract is dried, concentrated by evaporation and purified over an aluminium oxide column (activity stage II-III) with methylene chloride.

reactant | 1-(7,8-dimethoxy-1,3,4,5-tetrahydro-2H-3-benzazepin-2-on-3-yl)-3-chloro-propane | 0.005 mol, 1.5 g | COC1=CC2=C(CC(N(CC2)CCCCl)=O)C=C1OC | C15H20ClNO3
reactant | boron trifluoride etherate | 0.0044 mol, 0.55 ml | B(F)(F)F.CCOCC
reactant | toluene | 0.006 mol, 3 ml | C1(=CC=CC=C1)C | C7H8
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
product | 1-(7,8-Dimethoxy-1,2,4,5-tetrahydro-3H-3-benzazepin-3-yl)-3-chloro-propane | COC1=CC2=C(CCN(CC2)CCCCl)C=C1OC | C15H22ClNO2
